US07173025B1
5-(6-Bromonaphth-2-ylsulphonyl)-2-methoxycarbonylbenzoic acid(97 mg) was dissolved in dichloromethane (1 ml.). Oxalyl chloride (126 mg) was added and the mixture stirred at ambient temperature for 1 hour. The mixture was evaporated to give a solid which was redissolved in dichloromethane (1 ml) and added to a solution of N-(4-pyridyl)piperazine (34 mg) and triethylamine (108 mg) in dichloromethane (2 ml). After stirring for 2 hours at ambient temperature the mixture was diluted with ethyl acetate (100 ml), washed with water (2×25 ml), dried (MgSO4) and evaporated to give an oil, which was further purified by chromatography (Mega Bond Elut column, eluted with dichloromethane containing an increasing proportion of methanol, 0-5%) to give 1-[5-(6-bromonaphth-2-ylsulphonyl)-2-methoxycarbonylbenzoyl]-4-(4-pyridyl)piperazine (55 mg);

reactant | 5-(6-Bromonaphth-2-ylsulphonyl)-2-methoxycarbonylbenzoic acid | 97 mg | BrC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)C=1C=CC(=C(C(=O)O)C1)C(=O)OC | C19H13BrO6S
reactant | Oxalyl chloride | 126 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-(4-pyridyl)piperazine | 34 mg | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
reactant | triethylamine | 108 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1-[5-(6-bromonaphth-2-ylsulphonyl)-2-methoxycarbonylbenzoyl]-4-(4-pyridyl)piperazine | 55 mg | BrC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)C=1C=CC(=C(C(=O)N2CCN(CC2)C2=CC=NC=C2)C1)C(=O)OC | C28H24BrN3O5S
